US05811433
c. 7,8-Dichloro-1-ethyl-1,4-dihydro-1,6-naphthyridine-3-carboxylic acid
6.2 g (0.0196 mol) of ethyl 7,8-dichloro-1-ethyl-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate are heated at reflux in a mixture of 26 ml of acetic acid, 26 ml of water and 2.6 ml of concentrated sulphuric acid for two hours. The cooled mixture is put into ice-water, and the product is isolated and washed with water.

reactant | ethyl 7,8-dichloro-1-ethyl-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate | 0.0196 mol, 6.2 g | ClC1=NC=C2C(C(=CN(C2=C1Cl)CC)C(=O)OCC)=O | C13H12Cl2N2O3
reactant | water | 26 ml | O | H2O
reactant | sulphuric acid | 2.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 26 ml | C(C)(=O)O | C2H4O2
product | 7,8-Dichloro-1-ethyl-1,4-dihydro-1,6-naphthyridine-3-carboxylic acid | ClC1=NC=C2CC(=CN(C2=C1Cl)CC)C(=O)O | C11H10Cl2N2O2
